* C:\IMR_Projects\IMR\Arb_Power_Booster\Simulate\Current_Inrush_Limiter.asc
R1 NC_01 VG_A 20K
R2 VG_A 0 47K
C1 VIN+ VG_A 10µ
C2 VO+ 0 1000µ
V1 VIN+ 0 PULSE(0 20 10e-3 1e-5 1e-5 .5 1 2)
R3 VO+ 0 10K
XU1 VG_A VIN+ DI_MMSZ5239BS
XU2 VO+ VG_A VIN+ DMP6050SPS
R4 NC_02 VG_B 20K
R5 VG_B 0 47K
C3 VIN- VG_B 10µ
C4 VO- 0 1000µ
V2 0 VIN- PULSE(0 20 10e-3 1e-5 1e-5 .5 1 2)
R6 VO- 0 10K
XU3 VIN- VG_B DI_MMSZ5239BS
XU4 VO- VG_B VIN- DMNH6042SPDQ
XU5 VO- VG_B VIN- DMNH6042SPDQ
XU6 N004 N002 VCC VDD VO tlv9352
V3 VCC 0 20V
V4 VDD 0 -20V
R7 N001 N003 10K
R8 N003 0 1.236K
R9 N004 0 10K
R10 N002 N003 1K
R11 VO N002 2.1K
V5 N001 0 -10
.tran 500E-3
* Current inrush limiter. Works with zener or resistor R1 in circuit.  \n \nWhen using Zener diode clamps the VGS so as not to exceed the max VGS of the PMOS\nWhen using R1 the VGs limit is set by voltage divider of R1 and R2\n \nIn either case the C1 and R2 work to slow the turn on of the PMOSFET\nCircuit also has the benefit of reverse voltage connection because of the PMOSFET body diode
* OPTIONAL: You can cascade the MOSFET to reduce \nthe total power (and in rush) they have to consume
* OPTIONAL: You can cascade the MOSFET to reduce \nthe total power (and in rush) they have to consume
.lib DMNH6042SPDQ.MOD
.lib DMP6050SPS.MOD
.lib MMSZ5239BS.MOD
.lib tlv9352.lib
.backanno
.end
